US05958870
Linalyl chloroacetate (5.77 g, 25 mmol, 1 eq), in toluene (50 ml), was slowly added to didodecylamine (10 g, 28.3 mmol, 1.13 eq) and sodium carbonate (5.3 g, 0.05 mol, 2 eq), in toluene (50 ml). The reaction mixture was stirred at 60° C. for two weeks after which the reaction seemed completed by 1H NMR. The sodium carbonate was filtered off, the filtrate was concentrated under vacuum and diethyl ether (200 ml) was added before storage of the solution at 4° C. for 12 hours. Then, the solution was filtered and removal of ether under vacuum yielded to the expected N,N-didodecylglycine linalyl ester as a yellow oil.

reactant | Linalyl chloroacetate | 25 mmol, 5.77 g, 1 eq | ClCC(=O)OC(C)(C=C)CCC=C(C)C | C12H19ClO2
reactant | didodecylamine | 28.3 mmol, 10 g, 1.13 eq | C(CCCCCCCCCCC)NCCCCCCCCCCCC | C24H51N
reactant | sodium carbonate | 0.05 mol, 5.3 g, 2 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-didodecylglycine linalyl ester | C(C)(C=C)(CCC=C(C)C)OC(CN(CCCCCCCCCCCC)CCCCCCCCCCCC)=O | C36H69NO2
